US06683096B2
Preparation of (4-{3-[4-(1-cyclopropylmethyl-1H-indol-3-yl)-piperidin-1-yl]-propoxy}-phenyl)-acetic acid
This compound was prepared following the procedure described in Example 157 (part D) starting with 1.5 g (6 mmol) of 1-cyclopropylmethyl-3-piperidin-4-yl-1H-indole, 2 g (6.6 mmol) of [4-(3-chloro-propoxy)-phenyl]-acetic acid ethyl ester, 1.7 g (12 mmol) of potassium carbonate and 1 g (6.15 mmol) of potassium iodide in 32 mL of iso-butylmethylketone. The crude mixture was purified by flash chromatography over silica gel affording 1.6 g (58% of yield) of the desired product.

reactant | 1-cyclopropylmethyl-3-piperidin-4-yl-1H-indole | 6 mmol, 1.5 g | C1(CC1)CN1C=C(C2=CC=CC=C12)C1CCNCC1 | C17H22N2
reactant | [4-(3-chloro-propoxy)-phenyl]-acetic acid ethyl ester | 6.6 mmol, 2 g | C(C)OC(CC1=CC=C(C=C1)OCCCCl)=O | C13H17ClO3
reactant | potassium carbonate | 12 mmol, 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 6.15 mmol, 1 g | [I-].[K+]
solvent | iso-butylmethylketone | 32 mL | C(C(C)C)C(=O)C | C6H12O
product | (4-{3-[4-(1-cyclopropylmethyl-1H-indol-3-yl)-piperidin-1-yl]-propoxy}-phenyl)-acetic acid | C1(CC1)CN1C=C(C2=CC=CC=C12)C1CCN(CC1)CCCOC1=CC=C(C=C1)CC(=O)O | C28H34N2O3
